Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[C:6]([H:7])([H:8])[H:9].[H:1][C:2]([H:3])=[C:4]([H:5])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],1.31483496722
[H:1].[O:2]=[C:3]=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.33709042991
[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])=[C:13]1[H:14]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])=[C:13][H:14],4.88782773875
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([O:12])([H:13])[H:14]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([O:12])([H:13])[H:14],0.979333790887
[C:4]([H:5])([O:6][H:7])[C:8]#[C:11][H:12].[H:1][C:2](=[C:3]([H:10])[H:13])[H:9]>>[H:1][C:2]/[C:3](=[C:4](/[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],1.59857959494
[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]([O:3][C:4][H:5])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-6.976881295369999
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]#[C:8][H:9]>>[C:7]#[C:8][H:9].[H:1][C:2]#[C:3][O:4][C:5][H:6],5.9314763075600005
[H:1][C:2]#[C:3][C@:4]1([H:5])[C:6]([O:7][H:8])[C:9]1([H:10])[H:11]>>[H:1][C:2]#[C:3][C@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])[H:11],1.70399469607
[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.40882210379
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.13256964138
[C:4][C:11]([H:12])([H:13])[H:14].[H:1][O:2]/[C:3]=[C:6](\[H:5])[C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3][C@@:4]([H:5])([C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-2.14194870401
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[O:7][H:8]>>[H:1][C:2]#[C:3][O:4][C:5][H:6].[O:7][H:8],5.6411527041900005
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])[H:6].[H:1][O:2][C:3][C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],7.40053917
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]#[C:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]#[C:8][H:9])[C:10]([H:11])[H:12],4.62011061406
[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.66107187398
[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-1.93144327853
[C:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11])=[C:12]([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[C:12]([H:13])[H:14],-2.76895211634
[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][H:4].[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],0.310311643659
[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-3.2587022826
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]=[O:5],-0.154017971259
[H:1][C:2]#[C:3][C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.9783295676400003
[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]1[C:3][C:4]([H:5])[C@@:6]1([H:7])[C:8]([H:9])([H:10])[H:11],0.278693279241
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])[H:8].[H:1][C:2][C:4]([H:3])([H:5])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],8.66688329878
[C:10]([H:11])[H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[C:10]([H:11])[H:12],-5.3368992231400005
[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.53662576606
[H:15].[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.5543832766
